US09353108B2
F) 4,5-Dicyclopropyl-2-ethoxybenzaldehyde
Manganese dioxide (8.50 g) was added at room temperature to a toluene (50 mL) solution of (4,5-dicyclopropyl-2-ethoxyphenyl)methanol (2.84 g) in a nitrogen atmosphere, and the mixture was stirred at 80° C. for 1 hour. The reaction mixture was filtered through celite, and then, the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (2.68 g).

reactant | (4,5-dicyclopropyl-2-ethoxyphenyl)methanol | 2.84 g | C1(CC1)C1=CC(=C(C=C1C1CC1)CO)OCC | C15H20O2
catalyst | Manganese dioxide | 8.50 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dicyclopropyl-2-ethoxybenzaldehyde | 2.68 g | C1(CC1)C1=CC(=C(C=O)C=C1C1CC1)OCC | C15H18O2
